US05612373
A solution of 4-cyanobenzoyl chloride (2.5 g) in dichloromethane (50 ml) was added dropwise with stirring over 45 minutes to an ice-cold solution of t-butyl 2-methylcarbazate (2.0 g) in dichloromethane (50 ml) containing triethylamine (1.9 ml). The reaction mixture was stirred at ambient temperature for 2 hours and then washed with water, dilute aqueous sodium bicarbonate solution and brine, dried (MgSO4) and evaporated. The residue was crystallised from ethyl acetate to give t-butyl 3-(4-cyanobenzoyl)-2-methylcarbazate (2.5 g) as a white solid; m.p. 179°-181° C.; NMR Spectrum (DMSO-d6) 1.27-1.55 (9H, br s), 3.10 (3H, br s), 8.00 (4H, s), 10.90 (1H, s); Mass Spectrum m/Z 276 (M+H)+ ; Elemental Analysis: calculated for C14H17N3O3 : C, 61.1%; H, 6.2%; N, 15.3%; found: C, 61.6%; H, 6.2%; N, 15.5%.

reactant | 4-cyanobenzoyl chloride | 2.5 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | t-butyl 2-methylcarbazate | 2.0 g | CN(C(=O)OC(C)(C)C)N | C6H14N2O2
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | t-butyl 3-(4-cyanobenzoyl)-2-methylcarbazate | 2.5 g | C(#N)C1=CC=C(C(=O)NN(C(=O)OC(C)(C)C)C)C=C1 | C14H17N3O3
